US04543360
1-Methyl-2-(4-hydroxyphenyl)-6-hydroxy-indole
0.3 grams of 1-methyl-2-(4-acetoxy-phenyl)-6-acetoxy-indole was dissolved in 20 cc of methanol, treated under nitrogen with 3 ml of 2N aqueous sodium hydroxide and stirred for 2 hours at room temperature. After acidification with 2N hydrochloric acid, the mixture was extracted by shaking with methylene chloride, dried and the solvent removed in a vacuum, the product was brought to crystallization with a little methylene chloride. Yield: 0.21 grams, M.P. 200°-204° C.

reactant | 1-methyl-2-(4-acetoxy-phenyl)-6-acetoxy-indole | 0.3 grams | CN1C(=CC2=CC=C(C=C12)OC(C)=O)C1=CC=C(C=C1)OC(C)=O | C19H17NO4
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 20 cc | CO | CH4O
product | 1-Methyl-2-(4-hydroxyphenyl)-6-hydroxy-indole | CN1C(=CC2=CC=C(C=C12)O)C1=CC=C(C=C1)O | C15H13NO2
